US07713973B2
[7-(4-Methyl-piperazin-1-yl)-imidazo[1,2-c]pyrimidin-5-yl]-(5-methyl-1H-pyrazol-3-yl)-amine
Referring to Scheme 6, (7-Chloro-imidazo[1,2-c]pyrimidin-5-yl)-(5-methyl-1H-pyrazol-3-yl)-amine (0.12 mol) and 1-methyl-piperazine (1.2 mol) were dissolved in DMF (0.3 mL). This solution was heated at between 150-200° C. for 1-25 minutes using a microwave reactor. Purification by preparative HPLC afforded the product as a solid. 1H NMR (400 MHz, DMSO-D6) δ ppm 2.27 (s, 3H) 2.84 (s, 3H) 3.13 (bs, 2H) 3.32-3.49 (m, 4H) 4.41 (bs, 2H) 6.31 (s, 1H) 6.38 (s, 1H) 7.78 (d, J=2.53 Hz, 1H) 8.29 (d, J=2.27 Hz, 1H) 10.83 (s, 1H) 12.41 (s, 1H); ESI-MS: m/z 313.3 (M+H)+

reactant | (7-Chloro-imidazo[1,2-c]pyrimidin-5-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | 0.12 mol | ClC1=CC=2N(C(=N1)NC1=NNC(=C1)C)C=CN2 | C10H9ClN6
reactant | 1-methyl-piperazine | 1.2 mol | CN1CCNCC1 | C5H12N2
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
product | [7-(4-Methyl-piperazin-1-yl)-imidazo[1,2-c]pyrimidin-5-yl]-(5-methyl-1H-pyrazol-3-yl)-amine | CN1CCN(CC1)C1=CC=2N(C(=N1)NC1=NNC(=C1)C)C=CN2 | C15H20N8
